// File: nmos_top.spi
// Created: Thu Jan 22 07:15:06 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/sky130_rhbd/pex/nmos_top.pex.spice"
subckt nmos_top (  )
// 
M0_noxref ( noxref_1 noxref_3 noxref_2 noxref_5 ) NMOS l=0.163346 w=2.31104 m=1
c_3 ( noxref_1 0 ) capacitor c=0.00700166f //x=0.42 //y=0.54
c_6 ( noxref_2 0 ) capacitor c=0.203588f //x=0 //y=0
c_9 ( noxref_3 0 ) capacitor c=0.212094f //x=0.61 //y=0.965
// 
include "/import/yukari1/lrburle/sky130RHBDlib/sky130_rhbd/pex/nmos_top.pxi.spice"
// 
ends NMOS_TOP
// 
// 
